US04792569
2-Methylphenethyl sulfamate
A mixture of 2.65 g (0.019 mole) of 2-methylphenethyl alcohol in 10 ml DMF was added dropwise to a suspension of sodium hydride (1.1 g, 60% in oil; 0.08 mole) in 35 ml DMF at 0°-5° C. The suspension was stirred for 20 min under argon after which sulfamoyl chloride (2.86 g, 0.02 mole) was added portion wise at 0°-5° C. After stirring for 20 min the resultant suspension was poured into ice and extracted twice with Et2O. The combined organic phases were washed with saturated brine, dried over potassium carbonate and concentrated in vacuo to a syrup which was purified by preparative HPLC with hexane/EtOAc (1:1, v/v) as the eluant to give 1.76 g (43%) of the title compound as a solid, mp 50°-52° C.

reactant | 2-methylphenethyl alcohol | 0.019 mole, 2.65 g | CC1=C(CCO)C=CC=C1 | C9H12O
reactant | sodium hydride | 0.08 mole, 1.1 g | [H-].[Na+]
reactant | sulfamoyl chloride | 0.02 mole, 2.86 g | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 2-Methylphenethyl sulfamate | 1.76 g, 43% | S(N)(OCCC1=C(C=CC=C1)C)(=O)=O | C9H13NO3S
